US08222245B2
Ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate
7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (0.105 g, 0.272 mmol) was stirred in acetonitrile (2 ml). DIPEA (0.095 ml, 0.544 mmol) and ethyl 4-bromobutanoate (0.058 ml, 0.408 mmol) were added and the reaction mixture heated at 80° C. under Argon for 5 hours. Additional DIPEA (0.095 ml, 0.544 mmol) and ethyl 4-bromobutanoate (0.058 ml, 0.408 mmol) were added and the reaction mixture heated at 80° C. overnight. Then the reaction mixture was dissolved in EtOAc (20 ml), washed with NaHCO3 (aq) (15 ml×3) and with water (15 ml×3) and the organics dried (MgSO4) and evaporated. The crude was purified by flash chromatography eluting with EtOAc/iso-Hexane 20/30% (Biotage column), and evaporated to give the title compounds as an oil (80 mg). MS (ES): C26H3035ClN3O5 requires 499; found 500 [M+H]+.

reactant | 7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.272 mmol, 0.105 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CNCCO2)C1 | C20H20ClN3O3
reactant | DIPEA | 0.544 mmol, 0.095 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 4-bromobutanoate | 0.408 mmol, 0.058 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | DIPEA | 0.544 mmol, 0.095 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 4-bromobutanoate | 0.408 mmol, 0.058 ml | BrCCCC(=O)OCC | C6H11BrO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | Ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate | 80 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)CCCC(=O)OCC)C1 | C26H30ClN3O5
